US03954749
Preparation of 3-Diethylamino-N,N-Dimethylpropionamide
In accordance with this example, anhydrous diethylamine (44 grams) and N,N-dimethylacrylamide (60 grams) were heated at reflux temperature (about 56°-60°C.) for 48 hours. After this period of time, the reaction mixture was subjected to distillation to separate unreacted amine and amide followed by recovery of product in 86 percent yield at 70°C. and 2 mm. mercury pressure. The liquid product (purity = about 95 percent is designated herein as Amine Catalyst V, and has the formula, (C2H5)2N-CH2CH2C(O)N(CH3)2. The structure of this novel product was confirmed by infrared functional analysis and purity by gas-liquid chromatographic analysis.

reactant | diethylamine | 44 grams | C(C)NCC | C4H11N
reactant | N,N-dimethylacrylamide | 60 grams | CN(C(C=C)=O)C | C5H9NO
product | 3-Diethylamino-N,N-Dimethylpropionamide | 86 percent yield | C(C)N(CCC(=O)N(C)C)CC | C9H20N2O
